US04710323
3,4-Diaminophenyl-4-methoxyphenyl sulfoxide
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide a corresponding amount of (4-amino-3-nitrophenyl)-4-methoxyphenyl sulfoxide, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)-4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | (4-amino-3-nitrophenyl)-4-methoxyphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)S(=O)C1=C(C=C(C=C1)OC)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O7S
product | 3,4-Diaminophenyl-4-methoxyphenyl sulfoxide | Yield: 90% | NC=1C=C(C=CC1N)C1=C(C=CC(=C1)OC)S(=O)C1=C(C=C(C=C1)OC)C1=CC(=C(C=C1)N)N | C26H26N4O3S
